US04053504
Butane-1,4-diol bis-acrylate
In a 25 l stirred kettle with a water separator, 6.76 kg of butane-1,4-diol, 10.8 kg of acrylic acid, 1.3 kg of an acid ion exchanger (Lewatit 3333 from Bayer AG), 22.8 g of p-methoxyphenol, 88 g of cinnamic acid and also 3 l of a petroleum ether fraction which boils in a range from 60-70° C., were heated to the boil, whilst stirring and passing in air, under the water separator. After a period of 62 hours, in which the boiling point of the mixture had risen from an initial value of 63° C. to a final value of 70° C., an acid number of 25 was determined by titrating a sample and the reaction was discontinued. Up to this time, 2.36 l of H2O had been separated off. The petroleum ether was distilled off, first under normal pressure and then under reduced pressure. The product was freed from esterification catalyst by filtration and the catalyst was used for further esterifications. 14.5 kg of a clear, virtually colourless butane-1,4-diol bisacrylate, which is of high reactivity when cured under the influence of electron beams, were obtained. The viscosity corresponded to a flow time of 11 seconds, measured according to DIN 53,211 in a DIN cup 4, at 20° C.

reactant | butane-1,4-diol | 6.76 kg | C(CCCO)O | C4H10O2
reactant | acrylic acid | 10.8 kg | C(C=C)(=O)O | C3H4O2
reactant | p-methoxyphenol | 22.8 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | cinnamic acid | 88 g | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
solvent | water | O | H2O
product | Butane-1,4-diol bis-acrylate | C(C=C)(=O)OCCCCOC(C=C)=O | C10H14O4
